US09403847B2
Step H: N-{1-[3-(3,5-Difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethyl}-9H-purin-6-amine
A solution of 1-[3-(3,5-difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethanamine (40 mg, 0.14 mmol), 6-bromo-9H-purine [Aldrich, 104981] (33 mg, 0.17 mmol), and N,N-diisopropylethylamine (29 μL, 0.17 mmol) in ethanol (1.6 mL) was heated at 90° C. for 18 h. The reaction mixture was diluted with methanol and purified by preparative LCMS to give the desired product (33 mg, 58%) as a white solid. LCMS for C21H18F2N7 (M+H)+: m/z=406.1. 1H NMR (400 MHz, CD3OD): δ 8.12 (s, 1 H), 8.03 (br s, 1 H), 7.49 (d, J=9.0 Hz, 1 H), 7.25 (dd, J=9.0, 6.8 Hz, 1 H), 7.21-7.18 (m, 1 H), 7.00-6.94 (m, 2 H), 6.66 (d, J=6.8 Hz, 1 H), 5.44 (br s, 1 H), 2.15 (s, 3 H), 1.69 (d, J=7.0 Hz, 3 H).

reactant | 1-[3-(3,5-difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethanamine | 0.14 mmol, 40 mg | FC=1C=C(C=C(C1)F)C1=C(N=C2N1C(=CC=C2)C)C(C)N | C16H15F2N3
reactant | 6-bromo-9H-purine | 0.17 mmol, 33 mg | BrC1=C2N=CNC2=NC=N1 | C5H3BrN4
reactant | N,N-diisopropylethylamine | 0.17 mmol, 29 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 1.6 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | N-{1-[3-(3,5-Difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethyl}-9H-purin-6-amine | 33 mg, 58% | FC=1C=C(C=C(C1)F)C1=C(N=C2N1C(=CC=C2)C)C(C)NC2=C1N=CNC1=NC=N2 | C21H17F2N7
